US04490369
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{2,6-dichloro-phenyl}-ethyl)-amino]-propane dihydrochloride
This compound was prepared analogous to Example 5(b) by reacting 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane with N-methyl-N-[2-(2,6-dichloro-phenyl)-ethyl]-amine.

reactant | 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | N-methyl-N-[2-(2,6-dichloro-phenyl)-ethyl]-amine | CNCCC1=C(C=CC=C1Cl)Cl | C9H11Cl2N
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(2-{2,6-dichloro-phenyl}-ethyl)-amino]-propane dihydrochloride | Cl.Cl.COC1=CC2=C(CC(N(CC2)CCCN(CCC2=C(C=CC=C2Cl)Cl)C)=O)C=C1OC | InChI=1S/C24H30Cl2N2O3.2ClH/c1-27(12-9-19-20(25)6-4-7-21(19)26)10-5-11-28-13-8-17-14-22(30-2)23(31-3)15-18(17)16-24(28)29;;/h4,6-7,14-15H,5,8-13,16H2,1-3H3;2*1H
